datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11](=[C:12]([C:13]([C:14](=[C:15]([H:21])[H:22])[H:20])[H:19])[H:18])([H:16])[H:17]>>[C:0](=[C:1]([C:2]=[C:3]([C:4]([H:8])([H:9])[H:10])[C:13]([C:12](=[C:11]([H:16])[H:17])[H:18])([C:14](=[C:15]([H:21])[H:22])[H:20])[H:19])[H:7])([H:5])[H:6],70.3749
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([H:12])[H:13])([O:6][O:7])[H:11])([H:8])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10].[O:6][O:7][H:8],127.1936
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]#[C:15][C:16]([H:20])([H:21])[H:22])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:15](=[C:14][C:13](=[C:12]([H:17])[H:18])[H:19])[C:16]([H:20])([H:21])[H:22])[H:5],35.7732
[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5](=[C:6]([C:7]([H:19])([H:20])[H:21])[C:8](=[C:9]([H:23])[H:24])[H:22])[H:18])([H:16])[H:17])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]1([C:6]([C:7]([H:19])([H:20])[H:21])[C:8](=[C:9]([H:23])[H:24])[H:22])[H:18])[H:12])([H:10])[H:11],62.0487
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:13])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:13])[C:3]([H:14])([H:15])[O:4]1.[O:5][H:16],43.932
[C:0](=[C:1]([C:2](=[C:3]([H:12])[H:13])[C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])([H:16])[H:17])([H:14])[H:15])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1[C:3]([H:12])([H:13])[C:6]([C:7]([H:18])([H:19])[H:20])([C:8]([H:21])([H:22])[H:23])[C:5]([H:16])([H:17])[C:4]1([H:14])[H:15])[H:11])([H:9])[H:10],56.0238
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[S:7]([c:8]1[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]1[H:19])[H:14]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:14])([H:4])[H:5].[S:7][c:8]1[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]1[H:19],31.7984
[C:0]([O:1][O:2][O:3][H:7])([H:4])([H:5])[H:6].[C:8]([H:9])([H:10])[H:11]>>[C:0]([O:1])([H:4])([H:5])[H:6].[O:2]([O:3][H:7])[C:8]([H:9])([H:10])[H:11],58.7609
[C:0]1([H:6])([H:7])[C:1]([H:8])([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[H:17].[O:18][O:19]>>[C:0]1([H:7])[C:1]([H:8])([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[H:17].[H:6][O:18][O:19],199.11656
[C:0]1([H:3])([H:4])[S:1][S:2]1.[S:5][H:6]>>[C:0]1([H:4])[S:1][S:2]1.[H:3][S:5][H:6],34.81088
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26](=[C:27]([C:28]([C:29]([H:34])([H:35])[H:36])[H:33])[H:32])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:28]([C:27](=[C:26]([H:30])[H:31])[H:32])([C:29]([H:34])([H:35])[H:36])[H:33])[H:14])([H:12])[H:13],52.9694
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15](=[C:16][C:17]([H:20])([H:21])[H:22])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:8])[C:16](=[C:15]([H:18])[H:19])[C:17]([H:20])([H:21])[H:22])[H:7],-4.47688
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[c:12]1[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]1[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][c:12]1[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]1[H:22],-16.3176
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[H:17])([H:14])([H:15])[H:16]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][C:12]([C:11]([H:14])([H:15])[H:16])([C:13]([H:18])([H:19])[H:20])[H:17],0.8368
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16](=[C:17]([C:18]([H:24])([H:25])[H:26])[C:19]([H:27])([H:28])[H:29])[H:23])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[C:17]([C:16]([C:15]([H:20])([H:21])[H:22])[H:23])([C:18]([H:24])([H:25])[H:26])[C:19]([H:27])([H:28])[H:29])[H:8])([H:6])[H:7],76.9019
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([O:7][O:8])[H:16])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([O:7][O:8][H:9])[H:16])[H:12])([H:10])[H:11],87.0272
[C:0]([S:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[O:9][H:10]>>[C:0]([S:1][C:2]([H:6])([H:7])[H:8])([H:4])[H:5].[H:3][O:9][H:10],2.11
